US04233333
222 gm (1.07 mol) of phosphorus pentachloride were added in portions while stirring and cooling to 310 gm (2.7 mol) of chlorosulfonic acid. After the evolution of hydrogen chloride had subsided, 100 gm (0.89 mol) of 2-ethyl-thiophene were added dropwise while stirring at a temperature of 20° C. When the addition was finished, the reaction mixture was poured over ice and extracted with ether. The ether solution was washed until neutral, dried and evaporated. The residue was taken up in tetrahydrofuran, and the solution was added dropwise to a solution of 169 gm (2.3 mol) of tert.butylamine in 200 ml of tetrahydrofuran. After refluxing for 3 hours, the reaction mixture was filtered to separate the precipitated tert.butylamine hydrochloride, and the filtrate was evaporated in vacuo. The residue was taken up in ether and the solution was washed with dilute hydrochloric acid and with water, dried and evaporated. 147 gm of crude product were obtained which, after purification on a silica gel column (4 kg of silica gel 40 for column chromatography, particle size 0.2-0.5 mm; eluant: cyclohexane/ethyl acetate 4:1), yielded 117.6 gm (53% of theory) of 5-ethyl-N-tert.butyl-thiophene-2-sulfonamide.

reactant | phosphorus pentachloride | 1.07 mol, 222 gm | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | chlorosulfonic acid | 2.7 mol, 310 gm | ClS(=O)(=O)O | ClHO3S
reactant | hydrogen chloride | Cl | ClH
reactant | 2-ethyl-thiophene | 0.89 mol, 100 gm | C(C)C=1SC=CC1 | C6H8S
reactant | tert.butylamine | 2.3 mol, 169 gm | C(C)(C)(C)N | C4H11N
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 5-ethyl-N-tert.butyl-thiophene-2-sulfonamide | 117.6 gm, 53% | C(C)C1=CC=C(S1)S(=O)(=O)NC(C)(C)C | C10H17NO2S2
